*
*  ZETEX  2N7000P  Mosfet Spice Subcircuit   Last revision 3/5/00
*
.SUBCKT 2N7000P 3 4 5
* Nodes        D G S
M1 3 2 5 5 MOD1
RG 4 2 343
RL 3 5 6E6
C1 2 5 23.5P
C2 3 2 4.5P 
D1 5 3 DIODE1
*
.MODEL MOD1 NMOS VTO=2.474 RS=1.68 RD=0.0 IS=1E-15 KP=0.296
+CBD=53.5P PB=1 LAMBDA=267E-6
.MODEL DIODE1 D IS=1.254E-13 N=1.0207 RS=0.222
.ENDS 2N7000P
*
*$
*
*                          (C)  1991 ZETEX PLC
*
*   The copyright in this model  and  the design embodied belong to
*   Zetex PLC ("Zetex"). It is supplied free of charge by Zetex for
*   the purpose  of research  and design  and may be used or copied
*   intact (including this notice) for that purpose only. All other
*   rights  are  reserved.  The model  is believed  accurate but no
*   condition or warranty as to its  merchantability or fitness for
*   purpose  is  given  and  no liability  in respect of any use is
*   accepted by Zetex PLC, its distributors or agent.
*
*
*   Zetex PLC, Fields New Road, Chadderton, Oldham  OL9 8NP
